US05597890
Preparation of 3-(p-methoxyphenyl)-5-bromo-2,1-benzisoxazole (Hereafter "Compound 4")
To a solution of 148 g of potassium hydroxide in 300 ml of anhydrous methanol at 0° C. was added 21.3 g (0.145 mole) of 4-methoxy phenylacetonitrile. The mixture was stirred at 0° C. for 10 min. and then a solution of 25.4 g (0.126 mol) of p-bromo nitrobenzene in 300 ml of tetrahydrofuran and methanol (1:2) was slowly added over a period of 1 h. The deep purple mixture was continuously stirred and maintained at 0°-5° C. during addition. The temperature was then raised to 55° C. using a hot water bath and reaction mixture was stirred for another 3 h. On cooling, the reaction mixture was poured into 1500 ml of water, and the brown precipitate was separated by suction filtration. The product was washed twice with water followed by cold methanol. The yellow solid so obtained was recrystallized twice from methanol to give needle like light yellow crystals. Yield 19.5 g (51%). mp 137.1° C. Anal. calcd. for C14H10NO2Br: c, 55.29; H, 3.31; N, 4.61. Found: C, 54.99; H, 3.14; N, 4.62.

reactant | potassium hydroxide | 148 g | [OH-].[K+]
reactant | 4-methoxy phenylacetonitrile | 0.145 mole, 21.3 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | p-bromo nitrobenzene | 0.126 mol, 25.4 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | water | 1500 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-(p-methoxyphenyl)-5-bromo-2,1-benzisoxazole | COC1=CC=C(C=C1)C=1ON=C2C1C=C(C=C2)Br | C14H10BrNO2
